US08466176B2
To a stirred solution of 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-amine (125.0 mg, 0.35 mmol) in dry 1,2-dichloroethane (10 mL), under argon atmosphere, were added 3-phenylpropionaldehyde (66.6 mg, 0.49 mmol) and sodium triacetoxyborohydride (135 mg, 0.63 mmol) at room temperature. After stirring at room temperature for 18 h, the reaction mixture was diluted with dichloromethane (50 mL) and aq. NaOH (1 M, 30 mL) was added. After phase separation, the organic layer was washed with water (40 mL), dried over MgSO4 and concentrated in vacuo. Purification on silica gel afforded 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-N-(3-phenylpropyl)pyridin-2-amine as an oil [82 mg, yield 47%; HPLC/MS: m/z=471 (M+H); logP(HCOOH)=2.57].

reactant | 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-amine | 0.35 mmol, 125.0 mg | CN(C=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC1=CC=CC(=N1)N)C | C17H20N8O
reactant | 3-phenylpropionaldehyde | 0.49 mmol, 66.6 mg | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | sodium triacetoxyborohydride | 0.63 mmol, 135 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | NaOH | 1 M, 30 mL | [OH-].[Na+]
product | 6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-N-(3-phenylpropyl)pyridin-2-amine | yield 47% | CN(C=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC1=CC=CC(=N1)NCCCC1=CC=CC=C1)C | C26H30N8O
